US07576200B2
{2-[2-(2,3,4,5,6-Pentahydroxyhexanoylamino)ethoxy]ethoxy}acetic acid (20)
172 mg of sodium carbonate are added to a solution of 450 mg of [2-(2-aminoethoxy)ethoxy]acetic acid and 318 mg of 3,4,5-trihydroxy-hydroxymethyltetrahydropyran-2-one in 10 ml of methanol, and the mixture is stirred at room temperature until the reaction has gone to completion. The reaction solution is filtered and concentrated. The residue is taken up in water and acetonitrile (1/1), resulting in the formation of 2 phases. The aqueous phase is concentrated and contains 20:

reactant | sodium carbonate | 172 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | [2-(2-aminoethoxy)ethoxy]acetic acid | 450 mg | NCCOCCOCC(=O)O | C6H13NO4
reactant | 3,4,5-trihydroxy-hydroxymethyltetrahydropyran-2-one | 318 mg | OC1(C(OCC(C1O)O)=O)CO | C6H10O6
solvent | methanol | 10 ml | CO | CH4O
product | {2-[2-(2,3,4,5,6-Pentahydroxyhexanoylamino)ethoxy]ethoxy}acetic acid | OC(C(=O)NCCOCCOCC(=O)O)C(C(C(CO)O)O)O | C12H23NO10
